US07960404B2
Stage 1: 8-Azetidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile
1,4-Dioxaspiro[4,5]decan-8-one (4.84 g, 31 mmol) followed by potassium cyanide (4.85 g, 74.4 mmol) in water (15 ml) were added with ice cooling to a mixture of 4 N hydrochloric acid (8.1 ml), methanol (4.9 ml) and azetidine (8.5 g, 10 ml, 149 mmol). The mixture was stirred at room temperature for 5 days, then water (50 ml) was added and the mixture was extracted with diethyl ether (3×50 ml). The combined organic phases were dried with sodium sulfate and concentrated to small volume under vacuum. Yield: 6.77 g (98%), oil

reactant | 1,4-Dioxaspiro[4,5]decan-8-one | 31 mmol, 4.84 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | potassium cyanide | 74.4 mmol, 4.85 g | [C-]#N.[K+]
reactant | hydrochloric acid | 4 N, 8.1 ml | Cl | ClH
reactant | azetidine | 149 mmol, 10 ml, 8.5 g | N1CCC1 | C3H7N
solvent | water | 15 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | methanol | 4.9 ml | CO | CH4O
product | 8-Azetidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile | N1(CCC1)C1(CCC2(OCCO2)CC1)C#N | C12H18N2O2
